US07378418B2
354B. Preparation of 2-Benzyl-4-chloro-5-hydroxypyridazin-3(2H)-one
To a suspension of 2-benzyl-4-chloro-5-methoxypyridazin-3(2H)-one (22.2 g, 87.47 mmol) in water (150.0 mL), potassium hydroxide (5.89 g) was added and the mixture was heated to reflux. After 3 h, the mixture was then cooled to room temperature and 6N aqueous hydrochloric acid was added and the pH of the solution was adjusted to 3.0. The precipitate was filtered, washed with water and dried under reduced pressure to give the title compound, 2-benzyl-4-chloro-5-hydroxypyridazin-3(2H)-one (20.45 g) as a white solid. HPLC: 2.40 min.

reactant | 2-benzyl-4-chloro-5-methoxypyridazin-3(2H)-one | 87.47 mmol, 22.2 g | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)Cl)OC | C12H11ClN2O2
reactant | potassium hydroxide | 5.89 g | [OH-].[K+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | 150.0 mL | O | H2O
product | 2-benzyl-4-chloro-5-hydroxypyridazin-3(2H)-one | 20.45 g | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)Cl)O | C11H9ClN2O2
